US04900836
(3-Amino-1H-pyrazol-4-yl)phenylmethanone
A reaction mixture comprisng 73.36 g of α-[(dimethylamino)methylene]-β-oxo-2-benzenepropanenitrile, 63.45 g of aminoguanidine nitrate, 500 ml of ethanol and 36.6 ml of 10N sodium hydroxide was refluxed for 10 hours and then cooled. The resulting precipitate was collected and washed with water, giving 17.1 g of the desired product, mp 177°-179° C.

reactant | α-[(dimethylamino)methylene]-β-oxo-2-benzenepropanenitrile | 73.36 g | CN(C)C=C(C#N)C(C1=CC=CC=C1)=O | C12H12N2O
reactant | aminoguanidine nitrate | 63.45 g | [N+](=O)(O)[O-].NNC(=N)N
reactant | sodium hydroxide | 10N, 36.6 ml | [OH-].[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | (3-Amino-1H-pyrazol-4-yl)phenylmethanone | 17.1 g | NC1=NNC=C1C(=O)C1=CC=CC=C1 | C10H9N3O
